US05753665
Anhydrous aluminium chloride (27.2 g) was added to a stirred solution of 2-methylpropionyl chloride (23.4 g) in dry trichloromethane (100 ml) with external cooling to between 0° C. and 15° C. Over a period of 1 hour chloroethene (20 g) was passed through the mixture held at 24°-26° C., after which stirring was continued for a further 40 minutes. The reaction mixture was then poured onto crushed ice, the organic layer was separated, dried over magnesium sulphate and distilled under reduced pressure to obtain a colourless liquid of 1,1-dichloro-4-methyl-3-pentanone. Yield 23 g.

reactant | aluminium chloride | 27.2 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | 2-methylpropionyl chloride | 23.4 g | CC(C(=O)Cl)C | C4H7ClO
reactant | chloroethene | 20 g | ClC=C | C2H3Cl
solvent | trichloromethane | 100 ml | ClC(Cl)Cl | CHCl3
product | 1,1-dichloro-4-methyl-3-pentanone | ClC(CC(C(C)C)=O)Cl | C6H10Cl2O
